US07553842B2
Step B: Preparation of the 3-(2-oxotetrahydrofuran-3-ylthio)propyl trifluoromethanesulfonate:
Triflic anhydride (0.544 ml, 3.23 mmol) was added to a pre-cooled (0° C.) solution of 2,6-di-tert-butylpyridine (1.61 ml, 7.15 mmol) in methylene chloride (16 mL). A solution of 3-(3-hydroxypropylthio)-dihydrofuran-2(3H)-one (0.600 g, 3.41 mmol) dissolved in methylene chloride (2.5 mL) was added dropwise. The reaction was stirred at 0° C. for 15 minutes. The product was utilized in the subsequent step without isolation.

reactant | Triflic anhydride | 3.23 mmol, 0.544 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | 2,6-di-tert-butylpyridine | 7.15 mmol, 1.61 ml | C(C)(C)(C)C1=NC(=CC=C1)C(C)(C)C | C13H21N
reactant | 3-(3-hydroxypropylthio)-dihydrofuran-2(3H)-one | 3.41 mmol, 0.600 g | OCCCSC1C(OCC1)=O | C7H12O3S
solvent | methylene chloride | 16 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2.5 mL | C(Cl)Cl | CH2Cl2
product | 3-(2-oxotetrahydrofuran-3-ylthio)propyl trifluoromethanesulfonate | FC(S(=O)(=O)OCCCSC1C(OCC1)=O)(F)F | C8H11F3O5S2
